US07176242B2
N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,3-benzodioxole-5-carboxamide
To a solution of piperonylic acid (0.500 g, 3.01 mmol), EDC (0.867 g, 4.52 mmol), HOBT (0.611 g, 4.52 mmol) in anhydrous DMF (10 mL) was added a solution of TEA (1.67 mL, 12.04 mmol), 3-Amino-4-(3,5-difluoro-phenyl)-1-(3-ethyl-benzylamino)-butan-2-ol (1.693 g, 3.01 mmol), and anhydrous DMF (5 mL). Reaction mixture was stirred under nitrogen overnight. Quenched reaction mixture with 10% sodium bicarbonate (aq.) then extracted with ethyl acetate. Washed organic layer with 1N HCl, followed by a wash with 10% sodium bicarbonate (aq.). Dried organic layer over magnesium sulfate, filtered, then concentrated in vacuo, yielding the product. (ES+: 483.2)

reactant | piperonylic acid | 3.01 mmol, 0.500 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | EDC | 4.52 mmol, 0.867 g
reactant | HOBT | 4.52 mmol, 0.611 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-Amino-4-(3,5-difluoro-phenyl)-1-(3-ethyl-benzylamino)-butan-2-ol | 3.01 mmol, 1.693 g | NC(C(CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,3-benzodioxole-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=CC3=C(OCO3)C=C2)C=C(C1)F | C27H28F2N2O4
